US05849911
1-[4-(Pyridin-2-yl)-phenyl]-4(S)-hydroxy-2-N-(N-methoxy-carbonyl-(L)-tert-leucyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane
Analogously to Example 1, a solution of 0.315 g (0.5 mmol) of 1-[4-(pyridin-2-yl)-phenyl]- 4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane hydrochloride in 3 ml of DMF is added dropwise to a mixture of 0.152 g (0.8 mmol) of N-methoxycarbonyl-(L)-tert-leucine, 0.287 g (1.5 mmol) of EDC, 0.135 g (1 mmol) of HOBT and 0.49 ml of TEA in 3 ml of DMF. After working up, the crude product is purified by subsequent medium-pressure column chromatography (SiO2 ; hexane/ethyl acetate) to yield the title compound. TLC: Rf =0.35 (ethyl acetate); HPLC20-100 : tRet =11.05. FAB MS (M+H)+ =691.

reactant | 1-[4-(pyridin-2-yl)-phenyl]- 4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane hydrochloride | 0.5 mmol, 0.315 g | Cl.N1=C(C=CC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)C)=O)O)N
reactant | N-methoxycarbonyl-(L)-tert-leucine | 0.8 mmol, 0.152 g | COC(=O)N[C@@H](C(C)(C)C)C(=O)O | C8H15NO4
reactant | EDC | 1.5 mmol, 0.287 g
reactant | HOBT | 1 mmol, 0.135 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1-[4-(Pyridin-2-yl)-phenyl]-4(S)-hydroxy-2-N-(N-methoxy-carbonyl-(L)-tert-leucyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-valyl)amino-6-phenyl-2-azahexane | N1=C(C=CC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)C)=O)O)NC([C@@H](NOC)C(C=C=O)(C)C)=O | C37H48N6O7
